US07807840B2
Saturated hydrogen chloride in diethyl ether (15 mL) was added to a solution of (R)-1-(3,4-methylenedioxyphenyl)-2-propylaminopentane (8.00 g) in diethyl ether (80 mL) under ice-cooling and stirring. The precipitated crystals were collected by filtration and washed four times with diethyl ether (1 mL). The resulting powder (7.44 g) was dissolved by heating in acetone (150 mL), and the solution was concentrated to about 100 mL. The solution was allowed to stand at 5° C. for 15 hours. The precipitated crystals were collected by filtration and washed three times with acetone (5 mL) to give (R)-1-(3,4-methylenedioxyphenyl)-2-propylaminopentane hydrochloride (4.58 g, 24% yield).

reactant | hydrogen chloride | Cl | ClH
reactant | (R)-1-(3,4-methylenedioxyphenyl)-2-propylaminopentane | 8.00 g | C1OC=2C=C(C=CC2O1)C[C@@H](CCC)NCCC | C15H23NO2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
product | (R)-1-(3,4-methylenedioxyphenyl)-2-propylaminopentane hydrochloride | 4.58 g, 24% yield | Cl.C1OC=2C=C(C=CC2O1)C[C@@H](CCC)NCCC | InChI=1S/C15H23NO2.ClH/c1-3-5-13(16-8-4-2)9-12-6-7-14-15(10-12)18-11-17-14;/h6-7,10,13,16H,3-5,8-9,11H2,1-2H3;1H/t13-;/m1./s1
